US06218404B1
Preparation of 4-Benzyl-1-(3-p-toluenesul fonyloxypropyl)-piperidine.
To a solution of 4-benzyl-1-(3-hydroxypropyl)piperidine (1.0 g, 4.29 mmol) in CH2Cl2 (20 mL) were added TEA (1.2 mL, 8.57 mmol) and dropwise a solution of p-toluenesulfonyl chloride (1.22 g, 6.4 mmol) in CH2Cl2 (10 mL). The resulting solution was stirred at 25° C. for 2 h then diluted with CH2Cl2 (60 mL) and washed with NH4Cl (2×100 mL), dried and concentrated in vacuum to afford the crude intermediate, which was purified by trituration with EtOAc (10 mL) to give the title compound as a white solid (0.63g, 38%), mp 143-145° C. 1H-NMR (CDCl3): 1.2-1.45 (m, 2H), 1.65-1.85 (m, 3H), 2.319 (s, 3H), 2.502 (d, J=7.2 Hz, 2H), 2.6-2.8 (m, 2H), 3.338 (t, J=12.6 Hz, 2H), 3.875 (d, J=12.6, 2H), 4.277 (t, J=8.1 Hz, 2H), 4.421 (t, J=8.4 Hz, 2H), 7.064 (d, J=7.2 Hz, 2H), 7.122 (d, J=7.8 Hz, 2H), 7.15-7.30 (m, 3H), 7.76 (d, J=7.8 Hz, 2H).

reactant | 4-benzyl-1-(3-hydroxypropyl)piperidine | 4.29 mmol, 1.0 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCO | C15H23NO
reactant | p-toluenesulfonyl chloride | 6.4 mmol, 1.22 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-Benzyl-1-(3-p-toluenesul fonyloxypropyl)-piperidine | 0.63g, 38% | C(C1=CC=CC=C1)C1CCN(CC1)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H29NO3S
